US06875765B2
A solution of (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid tert-butyl ester (0.20 g, 0.40 mmol) in TFA (2 mL) and CH2Cl2 (20 mL) was stirred for 9 h. After the solvent was removed under vacuum, the residue was subjected to preparative reverse-phase HPLC (VYDAC, C18) using a linear gradient of (A) water containing 0.1% TFA and (3) acetonitrile containing 0.1% TFA (0-40% B, in 120 min) at a flow rate of 15 mL/min. Fractions containing the major peak were pooled and lyophilized to yield 50 mg (26%) of (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid. MS (APCI) m/z 483.1 (M+1).

reactant | (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid tert-butyl ester | 0.40 mmol, 0.20 g | C(C)(C)(C)OC(C[C@@H](C#N)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C27H30N4O6S
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-3-cyano-propionic acid | 50 mg, 26% | C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)N[C@@H](CC(=O)O)C#N)OCCC1=C2C=CC=NC2=CC=C1 | C23H22N4O6S
